US07399759B2
[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfinylacetic acid
tert-Butyl [[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfinyl]acetate (0.12 g, 0.30 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred for 0.5 hr. Diisopropyl ether was added to the mixture. The obtained crystals were recrystallized from ethanol to give the titled compound (0.081 g, 79%) as pale yellow crystals.

reactant | tert-Butyl [[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfinyl]acetate | 0.30 mmol, 0.12 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)S(=O)CC(=O)OC(C)(C)C | C19H18N2O4S2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfinylacetic acid | 0.081 g, 79% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)S(=O)CC(=O)O | C15H10N2O4S2
